US06495541B1
In a manner similar to that described for Example YY, 3-bromophenethyl alcohol (201 mg, 1.00 mmol), diboron pinacol ester (279 mg, 1.10 mmol), 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium (24 mg, 0.03 mmol), and potassium acetate (294 mg, 3.00 mmol), 2-bromo-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one (239 mg, 0.90 mmol), a second portion of 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium (24 mg, 0.03 mmol), and sodium carbonate (2.5 mL of a 2.0 M aqueous solution, 5.00 mmol) were reacted to yield 2-[3-(2-hydroxy-ethyl)-phenyl]-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one, 135 mg (44%) as an off-white solid: m.p. 187.5-188.5° C.; 1H NMR (300 MHz, d6-DMSO) δ2.82 (t, J=6.9 Hz, 2H), 3.12 (m, 2H), 3.39 (m, 2H), 3.69 (Abq, J=7.2, 5.1 Hz, 2H), 4.71 (t, J=5.1 Hz, 1H), 7.21 (t, J=7.8 Hz, 1H), 7.25 (d, J=7.2 Hz, 1H), 7.49 (m, 4H), 7.68 (dd, J=7.5, 0.9 Hz, 1H), 8.08 (br t, 1H), 11.55 (br s, 1H). MS (FAB, MH+): 307. Anal. (C19H18N2O2.0.1 H2O) C, H, N.

reactant | 3-bromophenethyl alcohol | 1.00 mmol, 201 mg | BrC=1C=C(CCO)C=CC1 | C8H9BrO
reactant | diboron pinacol ester | 1.10 mmol, 279 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.00 mmol, 294 mg | C(C)(=O)[O-].[K+]
reactant | 2-bromo-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one | 0.90 mmol, 239 mg | BrC=1NC=2C=CC=C3C2C1CCNC3=O | C11H9BrN2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[3-(2-hydroxy-ethyl)-phenyl]-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one | OCCC=1C=C(C=CC1)C=1NC=2C=CC=C3C2C1CCNC3=O | C19H18N2O2
